US06130217
Benzoxazol-6-ol
4-Aminoresorcinol hydrochloride (3.0 g, 18.5 mM), triethylorthoformate (9.1 g, 61.4 mM), and pyridinium-p-toluenesulfonate (PPTS, 250 mg, 1.0 mM) were refluxed in xylenes (200 mL) for about 18 hours. The reaction mixture was concentrated and the residue dissolved in ethyl acetate (200 mL) and washed with H2O (3×150 mL). The combined aqueous layer was back extracted with ethyl acetate (200 mL) and the combined organic layer was dried over MgSO4. Filtration and concentration provided an oil that was filtered through a silica gel column eluted with 1% methanol/methylene chloride to provide a brown solid, 1.66 g; m.p., 118-121° C.

reactant | 4-Aminoresorcinol hydrochloride | 18.5 mM, 3.0 g | Cl.NC1=C(C=C(O)C=C1)O
reactant | triethylorthoformate | 61.4 mM, 9.1 g | C(C)OC(OCC)OCC | C7H16O3
reactant | pyridinium-p-toluenesulfonate | 1.0 mM, 250 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | Benzoxazol-6-ol | O1C=NC2=C1C=C(C=C2)O | C7H5NO2
